US07652138B2
II.9: tropenol 4,4′-dibromobenzilate 4.9
4.9 is prepared analogously to the method according to II.1. Yield: 2.36 g (19% of theory) starting from 9.9 g (0.023 mol) of commercially obtainable isopropyl 4,4′-dibromobenzilate and 3.21 g (0.023 mol) of tropenol; to purify it, the hydrochloride was precipitated and recrystallized from acetonitrile. TLC: Rf value: 0.30 (eluant as in step II.1); melting point: 205° C.-207° C. (hydrochloride).

reactant | isopropyl 4,4′-dibromobenzilate | BrC1=CC=C(C(C(=O)OC(C)C)(O)C2=CC=C(C=C2)Br)C=C1 | C17H16Br2O3
reactant | tropenol | 0.023 mol, 3.21 g | [C@@]12(C=CC[C@H](CC1)N2C)O | C8H13NO
product | tropenol 4,4′-dibromobenzilate | BrC1=CC=C(C(C(=O)O[C@]23C=CC[C@H](CC2)N3C)(O)C3=CC=C(C=C3)Br)C=C1 | C22H21Br2NO3
